US06977262B2
4-(2-Chlorophenyl)-2,4,7,8-tetrahydrofurano[3,4-b]pyrazolo[4,3-e]pyridin-5-one
The title compound was prepared from 2-chlorobenzaldehyde, 3-aminopyrazole and ethyl 4-chloroacetoacetate in the same manner as in Example 1.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 4-chloroacetoacetate | ClCC(CC(=O)OCC)=O | C6H9ClO3
product | 4-(2-Chlorophenyl)-2,4,7,8-tetrahydrofurano[3,4-b]pyrazolo[4,3-e]pyridin-5-one | ClC1=C(C=CC=C1)C1C2=C(NC=3C1=CNN3)COC2=O | C14H10ClN3O2
